US20010049439A1
b) 5-Methylisoxazole-3-carboxylic acid
A mixture of acetonylacetone (10 g, 88 mmol) and nitric acid (sp. gr. 1.42)/water (2:3) (50 ml) was cautiously brought to reflux under a stream of nitrogen and boiled for 1 h. The solution was cooled to room temperature and aged overnight. The resultant solid was collected by filtration, washed with chilled water (2×7 ml) and hexane, and dried in vacuo to give the title-acid (4.4 g, 40%), 1H NMR (CDCl3) δ 2.50 (3H, d, J=0.8 Hz, Me), 6.41 (1H, d, J=0.8 Hz, Ar—H).

reactant | acetonylacetone | 88 mmol, 10 g | C(C(=O)C)CC(C)=O | C6H10O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | water | 50 ml | O | H2O
product | 5-Methylisoxazole-3-carboxylic acid | CC1=CC(=NO1)C(=O)O | C5H5NO3
